US05929074
4-Chloro-5-[3-{3-(4-formylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone (Compound No. 50)
A mixture comprising 11.58 g of 3-[3-(4-formylpiperazin-1-yl)-propoxy]-4-methoxybenzylamine, 5.0 g of 4,5-dichloro-3(2H)-pyridazinone, 4.6 g of triethylamine, 50 ml of n-propanol and 50 ml of water, was refluxed under heating with stirring for 14 hours. The solvent was distilled off under reduced pressure, and an aqueous potassium carbonate solution was added to the obtained residue, and the mixture was extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off, and the residue was purified by silica gel column chromatography to obtain 6.21 g of the above-identified compound as slightly yellow white solid.

reactant | 3-[3-(4-formylpiperazin-1-yl)-propoxy]-4-methoxybenzylamine | 11.58 g | C(=O)N1CCN(CC1)CCCOC=1C=C(CN)C=CC1OC | C16H25N3O3
reactant | 4,5-dichloro-3(2H)-pyridazinone | 5.0 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | triethylamine | 4.6 g | C(C)N(CC)CC | C6H15N
reactant | n-propanol | 50 ml | C(CC)O | C3H8O
solvent | water | 50 ml | O | H2O
product | 4-Chloro-5-[3-{3-(4-formylpiperazin-1-yl)-propoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone | 6.21 g | ClC=1C(NN=CC1NCC1=CC(=C(C=C1)OC)OCCCN1CCN(CC1)C=O)=O | C20H26ClN5O4
